US04379922
Acetic anhydride (0.2 ml.), sodium acetate (0.12 g.) and N,N-dimethylformamide (2 drops) were added to a solution of 7-(2-methoxyimino-3-oxo-4-bromobutyramido)3-acetoxy-cepham-4-carboxylic acid (syn isomer, 200 mg.) in dry tetrahydrofuran (2 ml.), and stirred at 28° C. for an hour. 6 N Hydrochloric acid (0.2 ml.) was added to the resultant solution and the solvent was evaporated in vacuo. Water was added to the residue. The precipitates were collected by filtration, washed with water and dried to give a mixture (0.09 g.) of 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid (syn isomer) and 7-(2-methoxyimino-3-oxo-4-chlorobutyramido)-3-cephem-3-carboxylic acid (syn isomer). [7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid (syn isomer)]

reactant | Acetic anhydride | 0.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 0.12 g | C(C)(=O)[O-].[Na+]
reactant | 7-(2-methoxyimino-3-oxo-4-bromobutyramido)3-acetoxy-cepham-4-carboxylic acid | 200 mg | CON=C(C(=O)NC1[C@@H]2N(C(C(CS2)OC(C)=O)C(=O)O)C1=O)C(CBr)=O | C14H16BrN3O8S
reactant | Hydrochloric acid | 6 N, 0.2 ml | Cl | ClH
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid | 0.09 g | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(CBr)=O | C12H12BrN3O6S
